US07365085B2
a) 2-thiophen-3-yl-propionaldehyde
A solution of methoxymethyldiphenyl phosphonium chloride (4 g, 11.9 mmol) in anhydrous ethanol (50 ml) was cooled to 0° C. and sodium ethoxide (0.8 g, 8.25 mmol) was added. After the mixture had warmed to room temperature, 1-thiophen-3-yl-ethanone (0.7 g, 5.9 mmol) was added and the reaction mixture was heated to 120° C. for 30 min in Microwave. The mixture was filtered and the filtrate was concentrated. The crude product was purified by silica gel column chromatograph using EtOAc:Hexane/20:80 as the eluent to give 0.5 g (54.5% yield) 3-((E or Z)-2-methoxy-1-methyl-vinyl)-thiophene. The solution of 3-((E or Z)-2-methoxy-1-methyl-vinyl)-thiophene in THF:HCl: H2O (10 ml total, 9:0.5:1) was heated to 150° C. for 30 min in microwave. After the mixture was concentrated the residue was partitioned between EtOAc and water. The combined organic layers were washed with sodium bicarbonate, water, brine, dried over sodium sulfate and concentrated to give the title compound as an oil 250 mg (30%).

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | HCl | Cl | ClH
reactant | H2O | 10 ml | O | H2O
reactant | THF | C1CCOC1 | C4H8O
product | 2-thiophen-3-yl-propionaldehyde | 250 mg, 30% | S1C=C(C=C1)C(C=O)C | C7H8OS
